US05706829
To a solution of 13.5 g. of 5-(2-chlorophenyl)-3H-1,4-benzodiazepin-2(1H)-one in 60 ml. of concentrated sulfuric acid, a solution of 5.5 g. of potassium nitrate in 20 ml. concentrated sulfuric acid is added dropwise. The solution is then heated in a bath at 45-50° for 2 1/2 hours, cooled and poured on ice. After neutralizing with ammonia, the formed precipitate is filtered off and boiled with ethanol. A small amount of white insoluble material is then filtered off. The alcoholic solution on concentration yields crystals of 7-nitro-5-(2-chlorophenyl)-3H-1,4-benzodiazepin-2(1H)-one (clonazepam) which, after recrystallization from dichloromethane, melt at 238-240°.

reactant | 5-(2-chlorophenyl)-3H-1,4-benzodiazepin-2(1H)-one | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=CC=C2)=O | C15H11ClN2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium nitrate | [N+](=O)([O-])[O-].[K+]
reactant | ammonia | N | H3N
product | 7-nitro-5-(2-chlorophenyl)-3H-1,4-benzodiazepin-2(1H)-one | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1 | C15H10ClN3O3
